resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.008268
R2 0 n2 0.985209
R3 0 n4 1.018338
R4 n1 n3 1.006598
R5 n1 n5 1.013907
R6 n2 n3 0.988971
R7 n2 n6 0.986571
R8 n3 n7 0.984372
R9 n4 n5 1.001784
R10 n4 n6 1.011171
R11 n5 n7 0.981687
R12 n6 n7 1.017769
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
